US05198451
A solution of n-butyllithium in hexanes (7.3 ml, 2.5 M) was added dropwise under a nitrogen atmosphere to ethylene glycol (20 ml) at 10° C. When addition was complete the mixture was stirred for 0.5 h at room temperature. 3-Bromo-1,1-diphenyl-1-propene (5.0 g, 18.3 mmol) was added and the reaction mixture was stirred at room temperature for 1 h, at 80° C. for 0.5 h and finally at room temperature for 3 h. Water (100 ml) was added and the mixture was extracted with ethyl acetate (100 ml). The phases were separated and the organic phase was washed with water (2×50 ml), dried over sodium sulphate and the solvent was evaporated in vacuo. Flash chromatography of the residue on silica gel (150 g) using n-heptane and THF (4:1) as eluent provided 2.9 g (62%) of 2-(3,3-diphenyl-2-propen-1-yloxy)ethanol.

reactant | n-butyllithium | C(CCC)[Li]
reactant | ethylene glycol | 20 ml | C(CO)O | C2H6O2
reactant | 3-Bromo-1,1-diphenyl-1-propene | 18.3 mmol, 5.0 g | BrCC=C(C1=CC=CC=C1)C1=CC=CC=C1 | C15H13Br
solvent | Water | 100 ml | O | H2O
product | 2-(3,3-diphenyl-2-propen-1-yloxy)ethanol | 2.9 g, 62% | C1(=CC=CC=C1)C(=CCOCCO)C1=CC=CC=C1 | C17H18O2
